US07368453B2
Step 2. Synthesis of Piperidin-4-one O-methyl-oxime Hydrochloride
4-Methoxyimino-piperidine-1-carboxylic acid tert-butyl ester in MeOH (10 mL) was treated with 4.0 M HCl/dioxane (1.0 mL) and stirred at room temperature over night. The solution was concentrated to yield 213 mg of the title compound without further purification. 1H NMR (DMSO, 300 MHz) δ ppm 2.47 (t, 2H, J=6.62 Hz), 2.68 (t, 2H, J=6.07 Hz), 3.17 (m, 4H), 3.77 (s, 3H), 9.08 (bs, 1H).

reactant | 4-Methoxyimino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)=NOC | C11H20N2O3
reactant | HCl dioxane | 4.0 M, 1.0 mL | Cl.O1CCOCC1
solvent | MeOH | 10 mL | CO | CH4O
product | Piperidin-4-one O-methyl-oxime Hydrochloride | 213 mg | Cl.CON=C1CCNCC1 | InChI=1S/C6H12N2O.ClH/c1-9-8-6-2-4-7-5-3-6;/h7H,2-5H2,1H3;1H
